US05627215
b) (E)-1,5,10,14-tetratosyl-1,5,10,14-tetraazatetradec-7-ene
A solution of 38.13 g (0.2 mol) of p-toluenesulfonic acid chloride in 300 ml of methylene chloride is added dropwise at room temperature, with stirring and under a nitrogen atmosphere, to a solution of 10.02 g (0.05 mol) of (E)-1,5,10,14-tetraazatetradec-7-ene in 100 ml (0.2 mol) of 2N sodium hydroxide solution. The reaction mixture is stirred for a further 2 h at room temperature, and then the organic phase is separated off and the aqueous phase is extracted with methylene chloride. The organic phases are combined, washed with water, dried over sodium sulfate and concentrated by evaporation. The residue is purified by means of flash chromatography over silica gel having a particle size of 0.04-0.063 mm, using ethyl acetate-hexane (1:1). Concentration of the product-containing fractions by evaporation yields the title compound in the form of an amorphous residue, Rf value=0.51 (silica gel/methylene chloride:methanol (50:1)).

reactant | p-toluenesulfonic acid chloride | 0.2 mol, 38.13 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | (E)-1,5,10,14-tetraazatetradec-7-ene | 0.05 mol, 10.02 g | NCCCNC\C=C\CNCCCN | C10H24N4
reactant | sodium hydroxide | 0.2 mol, 2N, 100 ml | [OH-].[Na+]
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | (E)-1,5,10,14-tetratosyl-1,5,10,14-tetraazatetradec-7-ene | S(=O)(=O)(C1=CC=C(C)C=C1)NCCCN(C\C=C\CN(CCCNS(=O)(=O)C1=CC=C(C)C=C1)S(=O)(=O)C1=CC=C(C)C=C1)S(=O)(=O)C1=CC=C(C)C=C1 | C38H48N4O8S4
